US04377576
8-Chloro-5,10-dihydro-5-[3-(2-methyl-piperidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11one
11.5 gm (0.034 mol) of 8-chloro-5-(3-chloro-propionyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one (m.p. 235°-237° C.) and 16.2 gm (0.16 mol) of 2-methyl-piperidine were refluxed in 100 ml of isopropanol for 1 hour. The reaction mixture was then evaporated in vacuo, the residue was dissolved in chloroform, the solution was washed with sodium hydroxide, and the organic solvent was distilled off in vacuo. The residue was recrystallized from xylene.

reactant | 8-chloro-5-(3-chloro-propionyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.034 mol, 11.5 gm | ClC=1C=CC2=C(NC(C3=C(N2C(CCCl)=O)C=CC=C3)=O)C1 | C16H12Cl2N2O2
reactant | 2-methyl-piperidine | 0.16 mol, 16.2 gm | CC1NCCCC1 | C6H13N
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 8-Chloro-5,10-dihydro-5-[3-(2-methyl-piperidino)-propionyl]-11H-dibenzo[b,e][1,4]diazepin-11one | ClC=1C=CC2=C(NC(C3=C(N2C(CCN2C(CCCC2)C)=O)C=CC=C3)=O)C1 | C22H24ClN3O2
